US08258297B2
1-Phenyl-1,2,4-triazolo[4,3-f]phenanthridinium chloride
A suspension of N-phenanthridin-6-yl-N′-phenylhydrazine hydrochloride (2.0 g, 6.2 mmol) in triethyl orthoformate (100 ml) is stirred under reflux under argon for 17 h. After cooling to room temperature, the mixture is concentrated and the precipitate is filtered off and washed with petroleum ether, methyl tert-butyl ether and acetone. Yield: 1.2 g (57%).

reactant | N-phenanthridin-6-yl-N′-phenylhydrazine hydrochloride | 6.2 mmol, 2.0 g | Cl.C1=CC=CC2=NC(=C3C=CC=CC3=C12)NNC1=CC=CC=C1
reactant | triethyl orthoformate | 100 ml | C(OCC)(OCC)OCC | C7H16O3
product | 1-Phenyl-1,2,4-triazolo[4,3-f]phenanthridinium chloride | [Cl-].C1(=CC=CC=C1)[N+]=1N=CN2C=3C=CC=CC3C=3C=CC=CC3C21 | InChI=1S/C20H14N3.ClH/c1-2-8-15(9-3-1)23-20-18-12-5-4-10-16(18)17-11-6-7-13-19(17)22(20)14-21-23;/h1-14H;1H/q+1;/p-1
